US06462035B1
6-METHOXY-11-AZA-TRICYCLO[7.3.1.02,7]TRIDECA-2(7),3,5-TRIENE HYDROCHLORIDE
11-Benzyl-6-methoxy-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene hydrochloride (525 mg, 1.64 mmol), ammonium formate (2.07 g, 32.0 mmol and 10% palladium hydroxide on carbon (Pd(OH)2/C) (200 mg) were combined in MeOH (30 mL) and refluxed for 2 hours. The mixture was filtered hot through Celite and the filtrate concentrated then azeotroped from MeOH (5×50 mL) to yield a solid. This was recrystallized from MeOH/Et2O to provide a white solid (306 mg, 81%). 1H NMR (free base, CDCl3) δ7.15 (t, J=8.0 Hz, 1H), 6.74 (d, J=8.0 Hz, 1H), 6.63 (d, J=8.0 Hz, 1H), 3.82 (s, 3H), 3.34 (br d, J=13.0 Hz, 1H), 3.11-3.02 (m, 4H), 2.94 (AB d, J=18.3 Hz, 1H), 2.87 (AB dd, J=18.3,6.5 Hz, 1H), 2.41 (br s, 1H), 1.91 (AB q, 2H). GSMS m/e 203 (M+). mp 272-274° C.

reactant | 11-Benzyl-6-methoxy-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene hydrochloride | 1.64 mmol, 525 mg | Cl.C(C1=CC=CC=C1)N1CC2CC=3C(=CC=CC3C(C1)C2)OC
reactant | ammonium formate | C(=O)[O-].[NH4+]
solvent | MeOH | 30 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 200 mg | [OH-].[OH-].[Pd+2]
product | 6-METHOXY-11-AZA-TRICYCLO[7.3.1.02,7]TRIDECA-2(7),3,5-TRIENE HYDROCHLORIDE | 306 mg, 81% | Cl.COC1=CC=CC=2C3CNCC(CC12)C3 | InChI=1S/C13H17NO.ClH/c1-15-13-4-2-3-11-10-5-9(6-12(11)13)7-14-8-10;/h2-4,9-10,14H,5-8H2,1H3;1H
